US08669252B2
(7R,8R)-7-(2-methylphenyl)-1,4-dioxaspiro[4.5]decane-8-carboxylic acid
(1R,2R)-2-(o-tolyl)-4-oxo-cyclohexanecarboxylic acid (500 mg, 2.153 mmol) in THF (6.0 ml) was reacted with ethylene glycol (0.600 ml, 10.76 mmol) and p-toluenesulfonic acid (82 mg, 0.431 mmol), and then aged at rt until the reaction was complete. The mixture was poured into water and extracted with EtOAc. The combined organic portions were dried (Na2SO4), filtered and concentrated to afford the title compound. HPLC/MS: 231.0 (M-CO2H+1), Rt=1.04 min (LC-2).

reactant | (1R,2R)-2-(o-tolyl)-4-oxo-cyclohexanecarboxylic acid | 2.153 mmol, 500 mg | C1(=C(C=CC=C1)[C@H]1[C@@H](CCC(C1)=O)C(=O)O)C | C14H16O3
reactant | ethylene glycol | 10.76 mmol, 0.600 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.431 mmol, 82 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
product | (7R,8R)-7-(2-methylphenyl)-1,4-dioxaspiro[4.5]decane-8-carboxylic acid | CC1=C(C=CC=C1)[C@@H]1CC2(OCCO2)CC[C@H]1C(=O)O | C16H20O4
